US04173639
2-Cyclohexylthio-5-Aminopyridine
2-Cyclohexylthio-5-nitropyridine (13.4 grams) was added to a suspension of 50 grams of ammonium chloride and 20 grams of powdered iron in a mixture of 220 ml. of ethyl acetate and 30 ml. of water. The reaction mixture was refluxed for 6 hours. TLC indicated some starting material remained. Additional powdered iron (10 grams) was added and the reaction mixture refluxed for another 2 hours. TLC indicated no starting material remaining. The reaction mixture was filtered, taken up in chloroform, washed with water, dried, and evaporated. The main product residue was crystallized from ethyl acetate-hexanes, 8.4 grams of tan crystals; a second crop was crystalled from chloroform-hexanes with charcoal, 0.8 gram. The second crop was analyzed as follows:

reactant | 2-Cyclohexylthio-5-nitropyridine | 13.4 grams | C1(CCCCC1)SC1=NC=C(C=C1)[N+](=O)[O-] | C11H14N2O2S
reactant | ammonium chloride | 50 grams | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 20 grams | [Fe] | Fe
catalyst | iron | 10 grams | [Fe] | Fe
solvent | water | O | H2O
product | 2-Cyclohexylthio-5-Aminopyridine | C1(CCCCC1)SC1=NC=C(C=C1)N | C11H16N2S
